US07211573B2
A solution of 20 g (70.6 mmol) dibenzylamino-acetic acid ethyl ester in 240 ml tetrahydrofuran was stirred at −78° C. with 38.8 ml (77.6 mmol) lithium diisopropylamide (2M in heptane) for 30 minutes. 17.4 ml (77.6 mmol) phenylacetaldehyde were added and stirring was continued overnight. The mixture was allowed to warm to room temperature, water was added and most of the organic solvent was removed by distillation. About 20 g citric acid were dissolved in the aqueous residue. Extraction with ethylacetate and chromatography on silicagel with ethylacetate/heptane 1/5 yielded as first eluting fraction 5.4 g (19%) racemic (2S,3R and 2R,3S)-2-dibenzylamino-3-hydroxy-4-phenyl-butyric acid ethyl ester, MS m/e (%): 404.3 (M+H+, 100) and as second eluting fraction 4.1 g (15%) racemic (2R,3R and 2S,3S)-2-dibenzylamino-3-hydroxy-4-phenyl-butyric acid ethyl ester, MS m/e (%): 404.3 (M+H+, 100).

reactant | dibenzylamino-acetic acid ethyl ester | 70.6 mmol, 20 g | C(C)OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H21NO2
reactant | lithium diisopropylamide | 77.6 mmol, 2M, 38.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenylacetaldehyde | 77.6 mmol, 17.4 ml | C1(=CC=CC=C1)CC=O | C8H8O
reactant | water | O | H2O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | 2-dibenzylamino-3-hydroxy-4-phenyl-butyric acid ethyl ester | C(C)OC(C(C(CC1=CC=CC=C1)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C26H29NO3
